* SPICE3 file created from SPDT.ext - technology: sky130A

.subckt x5v_pfet_1_10 S G D B
X0 D G S B sky130_fd_pr__pfet_g5v0d10v5 ad=30 pd=26 as=30 ps=26 w=10 l=1
.ends

.subckt x5v_nfet_1_10 S G D B
X0 D G S B sky130_fd_pr__nfet_g5v0d10v5 ad=30 pd=26 as=30 ps=26 w=10 l=1
.ends

.subckt Tgate in out Cbar VDD VSS C
X5v_pfet_1_10_0 in Cbar out VDD x5v_pfet_1_10
X5v_nfet_1_10_0 out C in VSS x5v_nfet_1_10
.ends

.subckt SPDT in1 in2 out C Cbar VDD VSS
XTgate_0 in1 out Cbar VDD VSS C Tgate
XTgate_1 in2 out C VDD VSS Cbar Tgate
.ends

